US06335445B1
1.2) 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-(4-aminophenyl)-benzamide
In a 250 ml Parr flask, 2.4 g (6.5 mmoles) of 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-(4-nitrophenyl)-benzamide is dissolved in 50 ml of an absolute ethanol/dichloromethane mixture (1/1) in the presence of 10% Pd/C. The mixture is agitated under 20 PSI of hydrogen, at 30° C., for one hour. After filtration on celite, the filtrate is concentrated under vacuum. The evaporation residue is taken up in 25 ml of a 1M HCl solution. The precipitate formed is filtered and rinsed with 50 ml of diethyl ether followed by 50 ml of ethyl acetate. The amine is released from its salt by agitation in a mixture of 50 ml of ethyl acetate and 50 ml of 1M NaOH. After decanting, the organic phase is washed with 25 ml of 1M NaOH and 25 ml of brine. The organic solution is dried over sodium sulphate, filtered, rinsed and concentrated to dryness under reduced pressure to produce 1.09 g (49%) of a white powder. Melting point: 220-221° C.

reactant | 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-(4-nitrophenyl)-benzamide | 6.5 mmoles, 2.4 g | CC(C)(C)C=1C=C(C(=O)NC2=CC=C(C=C2)[N+](=O)[O-])C=C(C1O)C(C)(C)C | C21H26N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol dichloromethane | 50 ml | C(C)O.ClCCl
solvent | Pd/C | [Pd] | Pd
product | 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-(4-aminophenyl)-benzamide | 1.09 g, 49% | CC(C)(C)C=1C=C(C(=O)NC2=CC=C(C=C2)N)C=C(C1O)C(C)(C)C | C21H28N2O2
